US05912261
A dimethyl sulfoxide solution (150 mL) containing 10.02 g of uracil, 3.3 mL of ethyl bromoacetate, 13.85 g of potassium carbonate and 4.52 g of sodium iodide was stirred at 90° C. for six hours. The reaction mixture was poured over water and the mixture was extracted with chloroform. The extracts were combined, dried over sodium sulfate and concentrated in vacuo. The concentrate was poured over a saturated saline solution, the mixture was extracted with ethyl acetate and the extract was dried over sodium sulfate. After concentration, the resulting residue was recrystallized from ethyl acetate to give 2.30 g of ethyl 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-1-acetate.

reactant | uracil | 10.02 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | ethyl bromoacetate | 3.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 13.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 4.52 g | [I-].[Na+]
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
product | ethyl 2,4-dioxo-1,2,3,4-tetrahydropyrimidine-1-acetate | 2.30 g | O=C1N(C=CC(N1)=O)CC(=O)OCC | C8H10N2O4
